US09227985B2
Step 2. 7-(3,5-Dimethylisoxazol-4-yl)-N-isopropyl-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-amine
To 2-chloro-7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine (9.1 mg, 0.025 mmol) in N-methylpyrrolidinone (0.40 mL), triethylamine (10 μL, 0.075 mmol) and 2-propanamine (21.2 μL, 0.25 mmol) were added and the mixture was heated at 120° C. overnight. The mixture was diluted with MeOH and purified by preparative LCMS (pH 10) to give the desired compound (2.8 mg, 29%). 1H NMR (500 MHz, DMSO-d6): δ 7.29 (3H, m); 6.92 (3H, m); 6.78 (1H, m); 6.55 (1H, m); 5.80 (1H, s); 4.68 (1H, m); 4.45 (1H, m); 4.00 (1H, m); 2.20 (3H, s); 2.02 (3H, s); 1.20 (3H, m); 1.09 (3H, m). LCMS calc. for C23H25N4O2 (M+H)+: m/z=389.2. found: 389.2.

reactant | 2-chloro-7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 0.025 mmol, 9.1 mg | ClC1=NC2=CC=C(C3=C2N1C(CO3)C3=CC=CC=C3)C=3C(=NOC3C)C | C20H16ClN3O2
reactant | triethylamine | 0.075 mmol, 10 μL | C(C)N(CC)CC | C6H15N
reactant | 2-propanamine | 0.25 mmol, 21.2 μL | CC(C)N | C3H9N
solvent | N-methylpyrrolidinone | 0.40 mL | CN1C(CCC1)=O | C5H9NO
solvent | MeOH | CO | CH4O
product | 7-(3,5-Dimethylisoxazol-4-yl)-N-isopropyl-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-amine | 2.8 mg, 29% | CC1=NOC(=C1C1=CC=C2C=3N(C(COC31)C3=CC=CC=C3)C(=N2)NC(C)C)C | C23H24N4O2
